US07511041B2
To a mixture of imidazo[1,2-c]quinazolin-5-amine hydrobromide (93 mg, 0.35 mmol) and nicotinic acid (124 mg, 1.01 mmol) and DMF (2.5 ml) at room temperature was added benzotriazole-1-yl-oxy-tris-pyrrolidino-phosphonium hexafluorophosphate (525 mg, 1.01 mmol) followed by N,N-diisopropylethyl amine (0.264 ml, 1.51 mmol), and the mixture was stirred at 80. for 6 hours. After cooling to room temperature, the reaction mixture was poured into aqueous saturated NaHCO3 solution. The resulting precipitate was collected by filtration, washed with acetone, and dried under reduced pressure to give N-imidazo[1,2-c]quinazolin-5-ylnicotinamide (40 mg, 39% yield) as a white solid.

reactant | imidazo[1,2-c]quinazolin-5-amine hydrobromide | 0.35 mmol, 93 mg | Br.N=1C=CN2C(=NC=3C=CC=CC3C21)N
reactant | nicotinic acid | 1.01 mmol, 124 mg | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | benzotriazole-1-yl-oxy-tris-pyrrolidino-phosphonium hexafluorophosphate | 1.01 mmol, 525 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | N,N-diisopropylethyl amine | 1.51 mmol, 0.264 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | N-imidazo[1,2-c]quinazolin-5-ylnicotinamide | 40 mg, 39% yield | N=1C=CN2C(=NC=3C=CC=CC3C21)NC(C2=CN=CC=C2)=O | C16H11N5O
